datasets/10k__Tet_Int.csv
SMILES Labelled
"C1(C(O[C:20]([O-:10])([O:21]C1[H])OC)CCCCCC)CC>>C(C([O-:21])[H])(C(O[C:20](=[O:10])OC)CCCCCC)CC 10=20;20,21=21"
"[Na][O+:21]([C:20]([O-:10])(OC)OCC)C>>[Na][O:21]C.[C:20](=[O:10])(OC)OCC 10=20;20,21=21"
"CCCCCCN([C:20]([O-:10])(OCC)[Cl:21])CC>>CCCCCCN([C:20](=[O:10])OCC)CC.[Cl-:21] 10=20;20,21=21"
"C9=CC=CC=C9[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]CC)[S]C.[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]CC)[S]C 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CC)[H])CCCCCC)[O-:10])C1=CC=CC=C1>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CC)[H])CCCCCC)C1=CC=CC=C1 10=20;20,21=21"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])C)[H])C1=CC=CC=C1)CCCCCC>>[H]N([C:20]1(OC(C(C([O:21]1)C)[H])C1=CC=CC=C1)[O-:10])CCCCCC 21=20;20,10=10"
"C[O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C([H])[O]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21]C)[O][CH](C7=CC=CC=C7)C([H])[CH]([H])[O]1 10=20;20,21=21"
"C[NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH]C8=CC=CC=C8)[O]C.[Cl-]>>[Cl-].C[NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[O]C 21=20;20,10=10"
"CN([C:20](=[O:10])OC(C(C([O-:21])C)[H])[H])C>>CN([C:20]1(OC(C(C([O:21]1)C)[H])[H])[O-:10])C 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([O:21]C)[S]C(C)C(C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S]C(C)C(C8=CC=CC=C8)[S]2.[H][O:10][H] 21=20;20,10=10"
"[H][O+:10](C([H])C(C)C([H])[O]1)[C:20]1([O:21][H])[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C([H])C(C)C([H])[O][C:20]([S]C7=CC=CC=C7)=[O+:21][H] 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([NH:21][H])[NH][CH]([H])C(C)[CH](CC)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C(CC)[O]2.C[O:10][H] 21=20;20,10=10"
"[H][S:10]C(CC)C(C)C(C)[S][C:20]([O]CC)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(CC)C(C)C(C)[S]1)[C:20]1([O:21][H])[O]CC 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21]CC)[O][CH](CC)C(C)[CH](C)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH](CC)[CH](C)C(C)[NH]2.[H][O:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][H])[S]C([H])C([H])[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S]C([H])C([H])[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"C[O+:21]=[C:20]2[S][CH](CC)[CH]([H])C(CC)[O]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21]C)[S][CH](CC)C([H])[CH](CC)[O]1 10=20;20,21=21"
"C1(C(O[C:20]([O-:10])([O:21]C1CCCCCC)OC1=CC=CC=C1)[H])CCCCCC>>C(C([O-:21])CCCCCC)(C(O[C:20](=[O:10])OC1=CC=CC=C1)[H])CCCCCC 10=20;20,21=21"
"[H]C1C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C)CC>>[H]C1C(O[C:20](=[O:10])N1C1=CC=CC=C1)CC.[O-:21]C 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C([H])=C(C)C([H])C([H])[O:10]1>>[O-:10]C([H])C([H])/C(C)=C([H])\[C:20](OCC)=[O:21] 21=20;20,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1CC)OCC)C1=CC=CC=C1)[H]>>C(C([O-:21])CC)(C(O[C:20](=[O:10])OCC)C1=CC=CC=C1)[H] 10=20;20,21=21"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)C)CC)CC)[O-:10])C1=CC=CC=C1>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C)CC)CC)C1=CC=CC=C1 10=20;20,21=21"
"[OH:21][C:20]2(OC)C(C(C)C3=C([NH+:10]2(C))C=CC=C3)[H]>>[NH:10](C)C(C=CC=C1)=C1C(C)C([C:20](OC)=[OH+:21])[H] 21=20;20,10=10"
"[O-:10]C(C)/C(C)=C([C:20](OC)=[O:21])/[H]>>[O-:21][C:20]1(OC)[O:10]C(C)C(C)=C1[H] 10=20;20,21=21"
"[H][O+:21]=[C:20]2[S]C([H])C([H])[S]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][H])[S]C([H])C([H])[S]1 10=20;20,21=21"
"[H][S:10]C(CC)C(C)C([H])[O][C:20]([S]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(CC)C(C)C([H])[O]1)[C:20]1([O:21][H])[S]C7=CC=CC=C7 10=20;20,21=21"
"CC[O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O]CC)[NH]C.[Cl-]>>[Cl-].CC[O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O]CC)[NH]C 21=20;20,10=10"
"C[O+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C8=CC=CC=C8)[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21]C)[O][CH]([H])C([H])[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[O-:10]C(C1=C(C([CH:20](C)=[O:21])O)C=CC=C1)C>>[O-:21][CH:20]2(C)C(C3=C(C([O:10]2)C)C=CC=C3)O 10=20;20,21=21"
"[H]C1C(C(O[C:20](=[O:10])N1CC)[H])[H].[O-:21][H]>>[H]C1C(C(O[C:20](N1CC)([O-:10])[O:21][H])[H])[H] 21=20;20,10=10"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CC)[H])CC>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CCCCCC)CC)[H])[O-:10])CC 21=20;20,10=10"
"C[NH+:10]([H])[C:20]1([NH:21]CC)[O][CH](C7=CC=CC=C7)C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(CC)[O]2.C[NH:10][H] 21=20;20,10=10"
"CCN([C:20]([O-:10])(OCC)[O:21]C)[H]>>CCN([C:20](=[O:10])OCC)[H].[O-:21]C 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C(C)[O]1)[C:20]1([NH:21]CC)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(C)[O][C:20]([O]CC)=[NH+:21]CC 21=20;20,10=10"
"CC1C(C(O[C:20](N1[H])([O-:10])[O:21][H])CCCCCC)[H]>>CC1C(C(O[C:20](=[O:10])N1[H])CCCCCC)[H].[O-:21][H] 10=20;20,21=21"
"CC1C(O[C:20](N1C)([O-:10])[O:21]C)[H]>>CC1C(O[C:20](=[O:10])N1C)[H].[O-:21]C 10=20;20,21=21"
"[H][NH+:10](C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C.[Cl-]>>[Cl-].[H][NH:10]C([H])C(C8=CC=CC=C8)[O][C:20]([NH]C)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)CC)C)[H])[O-:10])C>>CN([C:20](=[O:10])OC(C(C([O-:21])CC)C)[H])C 10=20;20,21=21"
